US04496560
A solution of 3-(2-benzamido-thiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.5 g) in a mixture of formic acid (43 cc) and distilled water (8 cc) is heated for 30 minutes at 60° C. and then diluted with distilled water (35 cc). The precipitate is filtered off, washed with 50% strength (by volume) formic acid (2×10 cc) and then with isopropyl ether (3×75 cc) and dried; 3-(2-benzamidothiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1 g) is obtained in the form of a white solid.

reactant | 3-(2-benzamido-thiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.5 g | C(C1=CC=CC=C1)(=O)NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C36H28N4O5S3
solvent | formic acid | 43 cc | C(=O)O | CH2O2
product | 3-(2-benzamidothiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1 g | C(C1=CC=CC=C1)(=O)NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)O | C23H18N4O5S3
